US09085583B2
A mixture of 2-methyl-1-(1-phenylethyl)-1H-pyrrolo[2,3-c]pyridine-3-carboxylic acid (280 mg, 1.0 mmol) was added HATU (456 mg, 1.2 mmol), TEA (1 g, 10 mmol) and 3-(aminomethyl)-4,6-dimethylpyridin-2(1H)-one (182 mg, 1.2 mmol) in anhydrous dichloromethane (30 mL) was stirred at room temperature for 16 hours. To the reaction mixture was added water (10 mL), extracted with dichloromethane (30 mL×2). The organic layers were combined and concentrated to give a residue. The residue was recrystallized from MeCN to afford compound N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-2-methyl-1-(1-phenylethyl)-1H-pyrrolo[2,3-c]pyridine-3-carboxamide as an off-white solid (80 mg, 21.6%). LRMS (M+H+) m/z: calcd 414.21. found 414. 1H NMR (400 MHz, Methanol-d4) δ: 8.84 (s, 1H), 8.16 (d, J=7.6 Hz, 1H), 8.03 (d, J=6.8 Hz, 1H), 7.44-7.37 (m, 5H), 6.09 (s, 1H), 6.01-5.99 (m, 1H), 4.49 (s, 2H), 2.73 (s, 3H), 2.38 (s, 3H), 2.22 (s, 3H), 2.06 (d, J=7.2 Hz, 3H).

reactant | 2-methyl-1-(1-phenylethyl)-1H-pyrrolo[2,3-c]pyridine-3-carboxylic acid | 1.0 mmol, 280 mg | CC1=C(C=2C(=CN=CC2)N1C(C)C1=CC=CC=C1)C(=O)O | C17H16N2O2
reactant | HATU | 1.2 mmol, 456 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-(aminomethyl)-4,6-dimethylpyridin-2(1H)-one | 1.2 mmol, 182 mg | NCC=1C(NC(=CC1C)C)=O | C8H12N2O
reactant | water | 10 mL | O | H2O
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-2-methyl-1-(1-phenylethyl)-1H-pyrrolo[2,3-c]pyridine-3-carboxamide | 80 mg, 21.6% | CC1=C(C(NC(=C1)C)=O)CNC(=O)C1=C(N(C2=CN=CC=C21)C(C)C2=CC=CC=C2)C | C25H26N4O2
